US04136192
2-Nitro-5-(3-phenoxypropoxy)-indan-1,3-dione
A suspension of 5-(3-phenoxypropoxy)-indan-1,3-dione (0.296 gm, 0.001 mole) was suspended in dry ether (10 ml) and cooled to 0° C. The stirred mixture was treated with fuming nitric acid (1 ml) added dropwise over 15 mins and stirred in the ice bath for 1 hr. The mixture was then stirred at r.t. for a further 11/2 hrs. During this time all the solid dissolved leaving a deep yellow solution. Dilute hydrochloric acid (20 ml) was added and the ether evaporated in vacuo. A yellow gum formed which solidfied on scratching to give 0.25 gm of yellow solid which had mp 77°-79° C.(d). (73%).

reactant | 5-(3-phenoxypropoxy)-indan-1,3-dione | 0.001 mole, 0.296 gm | O(C1=CC=CC=C1)CCCOC=1C=C2C(CC(C2=CC1)=O)=O | C18H16O4
reactant | nitric acid | 1 ml | [N+](=O)(O)[O-] | HNO3
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ether | 10 ml | CCOCC | C4H10O
product | 2-Nitro-5-(3-phenoxypropoxy)-indan-1,3-dione | 0.25 gm | [N+](=O)([O-])C1C(C2=CC=C(C=C2C1=O)OCCCOC1=CC=CC=C1)=O | C18H15NO6
